US07538141B2
Methyl-3-[3-(2-oxopropyl)phenyl]propanoate
A suspension of methyl (2E)-3-[3-(2-oxopropyl)phenyl]acrylate (5.00 g, Preparation 138) and 10% palladium on carbon (500 mg) in ethanol (50 ml) was stirred under an atmosphere of hydrogen (60 psi) at room temperature for 16 hours. The catalyst was filtered off through arbocel and the filtrate concentrated in vacuo to give the title compound as a pale yellow oil which was used without further purification.

reactant | methyl (2E)-3-[3-(2-oxopropyl)phenyl]acrylate | 5.00 g | O=C(CC=1C=C(C=CC1)/C=C/C(=O)OC)C | C13H14O3
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Methyl-3-[3-(2-oxopropyl)phenyl]propanoate | COC(CCC1=CC(=CC=C1)CC(C)=O)=O | C13H16O3
